US09120777B2
L) 1-(1-((2-Cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A mixture of methyl 1-(1-((2-cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate (208 mg), a 1 M aqueous sodium hydroxide solution (3 mL), and ethanol (6 mL) was stirred at 70 C for 1 hour. The reaction mixture was pH-adjusted to 3 using 1 M hydrochloric acid, followed by extraction with ethyl acetate twice. The obtained organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was recrystallized (2-propanol/hexane) to obtain the title compound (156 mg).

reactant | methyl 1-(1-((2-cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 208 mg | C1(CC1)C1=C(C=C(C(=C1)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)CC)=O)OC(C)C)C1=C(C=C(C=C1)F)F | C33H38F2N2O4
reactant | sodium hydroxide | 1 M, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-(1-((2-Cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 156 mg | C1(CC1)C1=C(C=C(C(=C1)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)CC)=O)OC(C)C)C1=C(C=C(C=C1)F)F | C32H36F2N2O4
